US06747023B1
5-Chloro-1-ethylindole
In benzene (10 ml), 5-chloroindole (1.52 g) was dissolved, followed by the addition of a 50% aqueous solution of sodium hydroxide (10 ml), tetrabutylammonium bromide (161 mg) and bromoethane (1.64 g). The resulting mixture was stirred at room temperature for 40 hours. After the addition of a saturated aqueous solution of ammonium chloride to the reaction mixture, water and dichloromethane were added to separate the organic layer. After the organic layer was dried over anhydrous sodium sulfate, the residue obtained by distilling off the solvent under reduced pressure was purified by chromatography on a silica gel column (ethyl acetate:hexane 1:20), whereby the title compound (1.68 g, 93%) was obtained as colorless crystals.

reactant | 5-chloroindole | 1.52 g | ClC=1C=C2C=CNC2=CC1 | C8H6ClN
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
reactant | bromoethane | 1.64 g | BrCC | C2H5Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
catalyst | tetrabutylammonium bromide | 161 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 5-Chloro-1-ethylindole | ClC=1C=C2C=CN(C2=CC1)CC | C10H10ClN
